US08895544B2
2-Iodo-1-(2-trimethylsilanyl-ethoxymethyl)-4,5,7,8-tetrahydro-1H-imidazo[4,5-d]azepine-6-carboxylic acid tert-butyl ester
To a solution of 2-iodo-4,5,7,8-tetrahydro-1H-imidazo[4,5-d]azepine-6-carboxylic acid tert-butyl ester (Preparation 28, 2.2 g, 6.06 mmol) in THF (35 mL) was added NaH (60% in paraffin oil, 254 mg, 6.36 mmol) and the resulting solution was stirred at room temperature for 1.5 hours. The reaction mixture was cooled to 0° C. and SEM-Cl (1.13 mL, 6.36 mmol) was added dropwise.

reactant | 2-iodo-4,5,7,8-tetrahydro-1H-imidazo[4,5-d]azepine-6-carboxylic acid tert-butyl ester | 6.06 mmol, 2.2 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)N=C(N2)I | C12H18IN3O2
reactant | NaH | 6.36 mmol, 254 mg | [H-].[Na+]
reactant | SEM-Cl | 6.36 mmol, 1.13 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 2-Iodo-1-(2-trimethylsilanyl-ethoxymethyl)-4,5,7,8-tetrahydro-1H-imidazo[4,5-d]azepine-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)N=C(N2COCC[Si](C)(C)C)I | C18H32IN3O3Si
